US07820655B2
A.i. 3,5-dibromoquinoline
To concentrated H2SO4 (130 ml) was added dropwise at 0° C., over 80 min, 3-bromoquinoline (50 g) at a rate allowing the internal temperature to be maintained between 0° and 10° C. After the addition was complete, NBS (48 g) was added portionwise and the reaction mixture was stirred at rt overnight. The reaction mixture was poured onto ice (2 l) and the resulting solid was dissolved in DCM (600 ml). The aq. layer was further extracted with DCM (600 ml) and the combined extracts were washed with 1M NaOH (300 ml) and concentrated in vacuo. The residue was adsorbed on SiO2 and the resulting dispersal was loaded on the top of a column and eluted with a DCM-Hex (1-1, 3 l) then DCM (3 l) and finally DCM-ether (1-1, 2 l). The title compound was recovered from the last fraction after evaporation to yield 40 g of a white solid.

reactant | H2SO4 | 130 ml | OS(=O)(=O)O | H2O4S
reactant | 3-bromoquinoline | 50 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | NBS | 48 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 600 ml | C(Cl)Cl | CH2Cl2
product | 3,5-dibromoquinoline | 40 g | BrC=1C=NC2=CC=CC(=C2C1)Br | C9H5Br2N
